US04183786
Purine:
6-mercaptopurine, 8-azaguanine, 2-fluoroadenine

reactant | 6-mercaptopurine | SC1=C2NC=NC2=NC=N1 | C5H4N4S
reactant | 8-azaguanine | N1C(N)=NC=2N=NNC2C1=O | C4H4N6O
reactant | 2-fluoroadenine | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
product | Purine | N1=CN=C2N=CNC2=C1 | C5H4N4
